Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.04477443424
[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[H:9].[O:5],1.49209919879
[H:10].[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.50754757678
[C:6](=[C:7]([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.649222381580002
[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[H:10],-0.351188761269
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-4.846876347759999
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2](=[O:3])[C:12]([C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])([H:13])[H:14],0.2464937939199999
[H:10].[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.59107237366
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.93223705677
[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.8784380080700002
[H:1][C:2](=[C:3]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-2.86432043999
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3],5.56685566987
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.66883661322
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][H:8].[H:1][C:2]#[C:3][C:9]([H:10])[H:11],3.82846273102
[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][C:6][H:7],4.8413086528900005
[C:2]#[C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-6.219318091490001
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],1.80692767607
[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-5.64208923678
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6],1.1754063242
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],1.48218494099
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])[H:6].[H:1][C:2]([H:3])[C:7]([H:8])=[C:9]([H:10])[H:11],5.26885505476
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],1.64229476599
[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.9447461054300006
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],1.05925595066
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14],1.0867356808600002
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.94386626205
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6][O:7][C:8]([H:9])([H:10])[H:11],1.32900751846
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]([H:9])[H:10],3.18769784373
